US08309734B2
[2-(2,5-Dichloro-phenoxy)-pyridin-3-yl]-(6-methyl-3,4-dihydro-2H-quinolin-1-yl)-methanone
To a solution of 2-(2,5-dichloro-phenoxy)-nicotinic acid (42.6 mg, 0.15 mmol, 1.0 equiv) in anhydrous DMF (1 mL) was added 6-methyl-1,2,3,4-tetrahydro-quinoline (26.5 mg, 0.18 mmol, 1.2 equiv; [CAS RN 91-61-2]), N-ethyldiisopropylamine (97.0 mg, 131 μL, 0.75 mmol, 5.0 equiv; [CAS RN 7087-68-5]) and HATU (68.4 mg, 0.18 mmol, 1.2 equiv; [CAS RN 148893-10-1]). The reaction mixture was heated by microwave irradiation to 100° C. for 10 min. Removal of the solvent mixture under reduced pressure and purification by preparative (Xterra® PrepMSC 18, 5 μm, 19×50 mm column equipped with a Gilson Liquid Handler 215 autosampler, two Rainin Dynamax® SD-300 pumps, a Sedex ELSD 75 lightscatter and a Dionex UVD 340S UV detector) on reversed phase eluting with a gradient of acetonitrile/water provided 30 mg (49%) of the title compound. MS (ISP): 413.2 [M+H]+.

reactant | 2-(2,5-dichloro-phenoxy)-nicotinic acid | 0.15 mmol, 42.6 mg, 1.0 equiv | ClC1=C(OC2=C(C(=O)O)C=CC=N2)C=C(C=C1)Cl | C12H7Cl2NO3
reactant | 6-methyl-1,2,3,4-tetrahydro-quinoline | 0.18 mmol, 26.5 mg, 1.2 equiv | CC=1C=C2CCCNC2=CC1 | C10H13N
reactant | N-ethyldiisopropylamine | 0.75 mmol, 131 μL, 97.0 mg, 5.0 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.18 mmol, 68.4 mg, 1.2 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | [2-(2,5-Dichloro-phenoxy)-pyridin-3-yl]-(6-methyl-3,4-dihydro-2H-quinolin-1-yl)-methanone | 30 mg, 49% | ClC1=C(OC2=NC=CC=C2C(=O)N2CCCC3=CC(=CC=C23)C)C=C(C=C1)Cl | C22H18Cl2N2O2
